US04882330
1-(3,4-Dichlorophenyl)piperazine
This compound was prepared according to the procedure of Preparation 1. A mixture of 44.6 g (0.25 mole) of bis(2-chloroethyl)amine hydrochloride, 40.5 g (0.25 mole) of 3,4-dichloroaniline and 50.0 g (0.36 mole) of potassium carbonate in a total volume of 500 ml of n-butanol gave an oil as residue. Trituration of the oil with petroleum ether (30°-60° C.) gave 16.0 g (28%) of white solid, m.p. 62°-65° C.

reactant | bis(2-chloroethyl)amine hydrochloride | 0.25 mole, 44.6 g | Cl.ClCCNCCCl
reactant | 3,4-dichloroaniline | 0.25 mole, 40.5 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | potassium carbonate | 0.36 mole, 50.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 1-(3,4-Dichlorophenyl)piperazine | 16.0 g, 28% | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
